US08470866B2
A mixture of 2-bromomethyl-3-trifluoromethyl-benzoic acid methyl ester (695 mg, 2.34 mmol), (S)-2-amino-3-cyclopentyl-propionic acid methyl ester (400 mg, 2.34 mmol), triethylamine (358 μL, 2.57 mmol), and acetonitrile (20 mL) was heated at 82° C. for 7 h. The crude reaction mixture was treated with water (5 mL) and then concentrated in vacuo to remove the acetonitrile. The remaining solution was then diluted with water (10 mL) and extracted with ethyl acetate (3×20 mL), the combined organics were then dried over magnesium sulfate, filtered to remove the drying agent and the filtrate concentrated in vacuo. The residue was then purified via automated flash chromatography (12 g silica gel column, 10-40% ethyl acetate/hexanes) to afford (S)-3-cyclopentyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester (675 mg, 81%) as a clear colorless oil: [α]25D=−16.0°, (c=0.15, methylene chloride); HR-ES(+) m/e calcd for C18H20NO3F3 [M+H]+ 356.1468, observed 356.1466; 1H NMR (300 MHz, DMSO-d6, ppm) δ 8.02 (t, J=8.00 Hz, 2H), 7.71-7.89 (m, 1H), 4.92 (dd, J=4.08, 10.41 Hz, 1H), 4.69 (s, 2H), 3.66 (s, 3H), 0.94-2.21 (m, 11H).

reactant | 2-bromomethyl-3-trifluoromethyl-benzoic acid methyl ester | 2.34 mmol, 695 mg | COC(C1=C(C(=CC=C1)C(F)(F)F)CBr)=O | C10H8BrF3O2
reactant | (S)-2-amino-3-cyclopentyl-propionic acid methyl ester | 2.34 mmol, 400 mg | COC([C@H](CC1CCCC1)N)=O | C9H17NO2
reactant | triethylamine | 2.57 mmol, 358 μL | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | (S)-3-cyclopentyl-2-(1-oxo-4-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-propionic acid methyl ester | 675 mg, 81% | COC([C@H](CC1CCCC1)N1C(C2=CC=CC(=C2C1)C(F)(F)F)=O)=O | C18H20F3NO3
